US20010027196A1
To a stirred suspension of 100 mg (0.31 mmol) 2-amino-4-(5-bromomethyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile in 5 ml water and 5 ml acetone was added 104 mg (0.61 mmol) silver nitrate and stirring continued for 16 h at room temperature in the dark. The reaction mixture was then concentrated in vacuo and the residue partitioned between ethyl acetate and water. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Chromatography (1/1 ethyl acetate/hexane then acetone) afforded 28 mg (35%) 2-amino-4-(5-hydroxymethyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile e as an orange crystalline solid. EI-MS m/e (%): 262 (M+, 100), 261 ([M—H]+, 90).

reactant | 2-amino-4-(5-bromomethyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 0.31 mmol, 100 mg | NC1=NC(=C(C(=N1)C=1OC(=CC1)CBr)C#N)SC | C11H9BrN4OS
reactant | water | 5 ml | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
catalyst | silver nitrate | 0.61 mmol, 104 mg | [N+](=O)([O-])[O-].[Ag+]
product | 2-amino-4-(5-hydroxymethyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 28 mg, 35% | NC1=NC(=C(C(=N1)C=1OC(=CC1)CO)C#N)SC | C11H10N4O2S
